US07632838B2
In an analogous manner to Example 1F, step 1Q 1-[(3-chlorophenyl)sulfonyl]-4-(3,5-dichloropyridin-4-yl)piperazine was prepared from 1-(3,5-dichloro-4-pyridyl)piperazine (0.1 g, 0.43 mmol) and 3-chlorobenzene sulfonyl chloride (66% yield).

reactant | 1-[(3-chlorophenyl)sulfonyl]-4-(3,5-dichloropyridin-4-yl)piperazine | ClC=1C=C(C=CC1)S(=O)(=O)N1CCN(CC1)C1=C(C=NC=C1Cl)Cl | C15H14Cl3N3O2S
reactant | 1-(3,5-dichloro-4-pyridyl)piperazine | 0.43 mmol, 0.1 g | ClC=1C=NC=C(C1N1CCNCC1)Cl | C9H11Cl2N3
product | 3-chlorobenzene sulfonyl chloride | 66% yield | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
